US07612075B2
4-(6-Chlorobenzo[b]thiophene-2-sulfonyl)-1-(1-methyl-1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)piperazin-2-one
4-(6-Chlorobenzo[b]thiophene-2-sulfonyl)-1-(1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)piperazin-2-one (0.59 g, 1.28 mmol), EXAMPLE 214, is dissolved in anhydrous DMF (30 ml), cooled in an ice bath, treated with 60% sodium hydride (0.061 g, 1.53 mmol) and stirred at room temperature for 30 minutes. The solution is treated with methyl iodide (83 mL, 1.33 mmol) and warmed to room temperature over 4 hours. The reaction is quenched with ammonium chloride solution, diluted with ethyl acetate and separated. The organic layer is washed with brine (3×), dried (Na2SO4) and concentrated. The residue is purified by flash chromatography (5-10% MeOH/CH2Cl2) to provide the title compound (0.31 g, 0.65 mmol). 1H NMR (CD3OD, 300 MHz) δ8.55 (d, 1H), 7.99 (dd, 1H), 7.82 (m, 3H), 7.49 (dd, 1H), 7.43 (d, 1H), 6.55 (s, 1H), 4.75 (s, 2H), 3.96 (s, 2H), 3.52 (m, 4H), 3.86 (s, 3H), 3.49 (s, 3H). Ion Spray MS, [M+H]+=477.

reactant | 4-(6-Chlorobenzo[b]thiophene-2-sulfonyl)-1-(1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)piperazin-2-one | 1.28 mmol, 0.59 g | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)N2CC(N(CC2)CC2=CC=3C=NC=CC3N2)=O)C1 | C20H17ClN4O3S2
reactant | sodium hydride | 1.53 mmol, 0.061 g | [H-].[Na+]
reactant | methyl iodide | 1.33 mmol, 83 mL | CI | CH3I
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 4-(6-Chlorobenzo[b]thiophene-2-sulfonyl)-1-(1-methyl-1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)piperazin-2-one | 0.65 mmol, 0.31 g | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)N2CC(N(CC2)CC2=CC=3C=NC=CC3N2C)=O)C1 | C21H19ClN4O3S2
